US09062015B2
FS1028 4-[6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]butan-1-ol
The preparation is carried out analogously to FS402 starting from 49 mg (0.23 mmol) of acetic acid 4-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]butyl ester. The product is the hydrochloride.

reactant | acetic acid 4-[6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]butyl ester | 0.23 mmol, 49 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CC(CCC1)NCCCCOC(C)=O)C | C30H43N3O2
reactant | hydrochloride | Cl | ClH
product | 4-[6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]butan-1-ol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CC(CCC1)NCCCCO)C | C28H41N3O
